US06184242B2
To a solution of 4-(4-isopropoxymethylbenzyl)phenyl carbamic acid 2-trimethylsilanyl-ethyl ester (734 mg, 1.84 mmol) in dry dimethyl sulfoxide at 20° C. under argon atmosphere was added tetra-n-butylammonium fluoride in tetrahydrofuran (5.52 mL, 5.52 mmol). After the mixture was stirred for 1 hour, the solution was partitioned between water (50 mL) and diethyl ether (50 mL). The aqueous phase was extracted with diethyl ether (2×20 mL), and the combined organic layers were washed with water and brine, dried (Mg2SO4), and evaporated in vacuo. The crude product was purified by flash chromatography to give pure 4-(4-isopropoxymethyl-benzyl)-phenylamine (405 mg, 86%) as a clear oil.

reactant | 4-(4-isopropoxymethylbenzyl)phenyl carbamic acid 2-trimethylsilanyl-ethyl ester | 1.84 mmol, 734 mg | C[Si](CCOC(NC1=CC=C(C=C1)CC1=CC=C(C=C1)COC(C)C)=O)(C)C | C23H33NO3Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 5.52 mmol, 5.52 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4-(4-isopropoxymethyl-benzyl)-phenylamine | 405 mg, 86% | C(C)(C)OCC1=CC=C(CC2=CC=C(C=C2)N)C=C1 | C17H21NO
